US05654445
c) 3(S)-Isopropyl-5(S)-{1(S)-azido-4(R,S)-hydroxy-3(S)-isopropyl-4-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-butyl}-tetrahydrofuran-2-one
45.1 ml of a 1N n-butyllithium solution (in hexane) are added dropwise at -75° C. to a mixture of 12.1 g of 4-methoxy-3-(3-methoxypropyloxy)-bromobenzene and 9.7 ml of 4-methylmorpholine in 75 ml of tetrahydrofuran. The reaction mixture is stirred for a further 20 minutes at -75° C. and then, at from -75° C. to -60° C., a suspension of magnesium bromide in tetrahydrofuran (freshly prepared from 1.6 g of magnesium powder and 5.7 ml of 1,2-dibromoethane in 150 ml of tetrahydrofuran) is added. The reaction mixture is stirred for a further 30 minutes and then, at -75° C., a solution of 8.84 g of 3(S)-isopropyl-5(S)-[1(S)-azido-3(S)-isopropyl-4-oxobutyl]-tetrahydrofuran-2-one in 75 ml of tetrahydrofuran is added. The reaction mixture is then stirred for 15 minutes at -75° C. and subsequently 70 ml of saturated ammonium chloride solution are added. The reaction mixture is then poured into 180 ml of saturated sodium chloride solution:water (1:1) and extracted with ethyl acetate (2×360 ml). The organic phases are dried over magnesium sulfate and concentrated by evaporation. The title compound is obtained by purifying the residue by FC (240 g of silica gel, ethyl acetate/hexane=1:2): Rf (ethyl acetate/hexane=1:2)=0.16; HPLC Rt =18.53 and 19.49 minutes (diastereoisomeric mixture). ps d) 4-Methoxy-3-(3-methoxypropyloxy)-bromobenzene

reactant | n-butyllithium | 1N | C(CCC)[Li]
reactant | 4-methoxy-3-(3-methoxypropyloxy)-bromobenzene | 12.1 g | COC1=C(C=C(C=C1)Br)OCCCOC | C11H15BrO3
reactant | 4-methylmorpholine | 9.7 ml | CN1CCOCC1 | C5H11NO
reactant | magnesium bromide | [Br-].[Mg+2].[Br-]
reactant | magnesium | 1.6 g | [Mg] | Mg
reactant | 1,2-dibromoethane | 5.7 ml | BrCCBr | C2H4Br2
reactant | 3(S)-isopropyl-5(S)-[1(S)-azido-3(S)-isopropyl-4-oxobutyl]-tetrahydrofuran-2-one | 8.84 g | C(C)(C)[C@H]1C(O[C@@H](C1)[C@H](C[C@H](C=O)C(C)C)N=[N+]=[N-])=O | C14H23N3O3
reactant | ammonium chloride | 70 ml | [Cl-].[NH4+]
reactant | sodium chloride | 180 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 3(S)-Isopropyl-5(S)-{1(S)-azido-4(R,S)-hydroxy-3(S)-isopropyl-4-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-butyl}-tetrahydrofuran-2-one | C(C)(C)[C@H]1C(O[C@@H](C1)[C@H](C[C@H](C(C1=CC(=C(C=C1)OC)OCCCOC)O)C(C)C)N=[N+]=[N-])=O | C25H39N3O6
